US05478857
3-(2-(4-(2-Ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)butyloxy)phenyl)propionic acid
A solution of 375 mg of ethyl 3-(2-(4-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)butyloxy)phenyl)propionate in 25 ml of ethanol was mixed with 5 ml of 5.0N sodium hydroxide and stirred 16 hours. The mixture was diluted with 1.0N hydrochloric acid and extracted with 3:1 dichloromethane/isopropanol. The organic phase was washed with saturated sodium chloride, dried over sodium sulfate, and evaporated in vacuo providing the desired title product in 72% yield. NMR.

reactant | ethyl 3-(2-(4-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)butyloxy)phenyl)propionate | 375 mg | C(C)C1=C(OCCCCOC2=C(C=CC=C2)CCC(=O)OCC)C=C(C(=C1)C1=CC=C(C=C1)F)O | C29H33FO5
reactant | sodium hydroxide | 5.0N, 5 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1.0N | Cl | ClH
product | 3-(2-(4-(2-Ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)butyloxy)phenyl)propionic acid | 72% yield | C(C)C1=C(OCCCCOC2=C(C=CC=C2)CCC(=O)O)C=C(C(=C1)C1=CC=C(C=C1)F)O | C27H29FO5
